US06716837B1
1-(4-Fluorophenyl)-6-(4-methylpiperazinyl)-indole (compound 45, from compound 44, arylation example)
A mixture of 6-(4-Methylpiperazinyl)-indole (14.8 mg, 0.0687 mmol), K2CO3 (37.9 mg, 0.275 mmol), CuBr (4.9 mg, 0.0353 mmol), a little copper powder and 1-Fluoro-4-iodobenzene (30.5 mg, 0.37 mmol) in 1 ml of NMP was heated at 170° C., under argon, overnight. After cooling, the mixture was diluted with dichloromethane and the organic layer washed with water 10 times before being passed through a silica gel column (eluting with 1% 2M ammonia/methanol in dichloromethane) to give the title product (7.8 mg, 37%).

reactant | 6-(4-Methylpiperazinyl)-indole | 0.0687 mmol, 14.8 mg | CN1CCN(CC1)C1=CC=C2C=CNC2=C1 | C13H17N3
reactant | K2CO3 | 0.275 mmol, 37.9 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-Fluoro-4-iodobenzene | 0.37 mmol, 30.5 mg | FC1=CC=C(C=C1)I | C6H4FI
solvent | NMP | 1 ml | CN1CCCC1=O | C5H9NO
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | copper | [Cu] | Cu
product | 1-(4-Fluorophenyl)-6-(4-methylpiperazinyl)-indole | 7.8 mg, 37% | FC1=CC=C(C=C1)N1C=CC2=CC=C(C=C12)N1CCN(CC1)C | C19H20FN3
